US06977263B2
A solution of 5-phenylethynyl-pyridine-3-carboxylic acid (2 g, 8.9 mmol) in tetrahydrofuran (50 ml) was treated with 10% palladium on carbon (200 mg) and stirred at ambient temperature under an atmosphere of hydrogen for 5 hours. The reaction mixture was filtered through a short pad of hyflo and the filtrate was concentrated under vacuum to give 5-phenylethyl-pyridine-3-carboxylic acid as white solid (2 g). 1H NMR [(CD3)2SO, 500 MHz]: δ 8.90 (m, 1H), 8.60 (m, 1H), 8.12 (m, 1H), 7.21 (m, 5H), 3.38 (br s, 1H), 2.95 (m, 4H).

reactant | 5-phenylethynyl-pyridine-3-carboxylic acid | 8.9 mmol, 2 g | C1(=CC=CC=C1)C#CC=1C=C(C=NC1)C(=O)O | C14H9NO2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
product | 5-phenylethyl-pyridine-3-carboxylic acid | 2 g | C1(=CC=CC=C1)CCC=1C=C(C=NC1)C(=O)O | C14H13NO2
